US04800207
To a solution of 27.7 g (0.10 moles) 1-(2-bromophenyl)-3-(1H-pyrrol-2-yl)-2-propen-1-one in 120 mL of acetonitrile was added 26.16 g (0.12 moles) of di-t-butyldicarbonate and 1.27 g (0.01 moles) of dimethylaminopyridine. The solution was stirred for 45 min after which 3.54 g (0.03 moles) of 2-diethylaminoethylamine was added. After stirring for 15 min the reaction was partitioned between 200 mL of 1M potassium hydrogen sulfate and ether. The ether layer was washed twice with 100 mL portions of 1M potassium hydrogen sulfate, water brine and dried (K2CO3). Evaporation of the solvent in vacuo gave 34.4 g of 1,1-dimethylethyl 2-[3-(2-bromophenyl)-3-oxo-1-propenyl]-1H-pyrrol-1-carboxylate as an oil (92%).

reactant | 1-(2-bromophenyl)-3-(1H-pyrrol-2-yl)-2-propen-1-one | 0.10 moles, 27.7 g | BrC1=C(C=CC=C1)C(C=CC=1NC=CC1)=O | C13H10BrNO
reactant | di-t-butyldicarbonate | 0.12 moles, 26.16 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 0.01 moles, 1.27 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-diethylaminoethylamine | 0.03 moles, 3.54 g | C(C)N(CCN)CC | C6H16N2
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1,1-dimethylethyl 2-[3-(2-bromophenyl)-3-oxo-1-propenyl]-1H-pyrrol-1-carboxylate | 34.4 g, 92% | BrC1=C(C=CC=C1)C(C=CC=1N(C=CC1)C(=O)OC(C)(C)C)=O | C18H18BrNO3
